US09388189B2
a) 3-Amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol
3-Amino-5-bromophenol (0.75 g, 3.99 mmol), prepared as described at C. Cannizzaro et al. U.S. Pat. No. 7,417,055 B2 20080826), was dissolved in 19 ml 1,4-dioxane. Bis(pinacolato)diboron (1.52 g, 5.99 mmol) and potassium acetate (1.17 g, 11.96 mmol were added and the mixture was submitted to three vacuum-argon cycles. 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.33 g, 0.40 mmol) was added under argon conditions. The mixture was heated under microwave irradiation at 120° C. during 20 minutes. The reaction was filtered through a plug of Celite and the filtered was partitioned between ethyl acetate and water. The organic phase was extracted, washed with brine, dried over sodium sulphate, filtered and evaporated under reduced pressure. The residue was purified using SP1® Purification System (0% to 15% dichloromethane-2-propanol) to obtain 0.61 g (63% yield) of the title compound.

reactant | 3-Amino-5-bromophenol | 3.99 mmol, 0.75 g | NC=1C=C(C=C(C1)Br)O | C6H6BrNO
reactant | Bis(pinacolato)diboron | 5.99 mmol, 1.52 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 19 ml | O1CCOCC1 | C4H8O2
product | 3-Amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.61 g, 63% yield | NC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)O | C12H18BNO3
